### PR TITLE
Add Erdős Problem 658 (squares in dense subsets of the grid), link the formal proof

### LINKED ISSUE #6203: Erdős Problem 658
### What is the Erdős problem?

https://www.erdosproblems.com/658

Let $\delta>0$ and $N$ be sufficiently large depending on $\delta$. Is it true that if $A\subseteq \{1,\ldots,N\}^2$ has $\lvert A\rvert \geq \delta N^2$ then $A$ must contain the vertices of a square?

Status: proved (Lean). Follows from density Hales–Jewett (Furstenberg–Katznelson) / Solymosi; a formal proof (axis-aligned squares, via the Frankl–Rödl hypergraph removal lemma) exists in plby/lean-proofs (`Erdos658.erdos_658`, John Jennings and Aristotle).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6203.

### What changed
Adds `FormalConjectures/ErdosProblems/658.lean` with `erdos_658` (`research solved`, `answer(True)`): for `δ > 0` and large `N`, every `A ⊆ {1, …, N}²` with `|A| ≥ δ N²` contains the four vertices of an axis-aligned square (Graham's question; Furstenberg–Katznelson [FuKa91], Solymosi [So04]). Linked to plby/lean-proofs `Erdos658.erdos_658` (John Jennings and Aristotle, via the Frankl–Rödl removal lemma; 81 Mathlib-only files).

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos658.erdos_658` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms. plby works with subsets of `{0, …, N−1}² ⊆ ℤ²` and squares of nonzero (possibly negative) side; the bridge shifts `{1, …, N}² ⊆ ℕ²` to that grid and normalises the side length:

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge658

/-- Shift a subset of `{1, …, N}²` to a subset of plby's grid `{0, …, N-1}² ⊆ ℤ²`. -/
def shift (A : Finset (ℕ × ℕ)) : Finset (ℤ × ℤ) :=
  A.image fun p => ((p.1 : ℤ) - 1, (p.2 : ℤ) - 1)

lemma shift_injective : Function.Injective fun p : ℕ × ℕ => ((p.1 : ℤ) - 1, (p.2 : ℤ) - 1) := by
  rintro ⟨a, b⟩ ⟨c, d⟩ h
  simp only [Prod.mk.injEq] at h
  ext <;> simp <;> omega

lemma card_shift (A : Finset (ℕ × ℕ)) : (shift A).card = A.card :=
  Finset.card_image_of_injective _ shift_injective

lemma shift_subset {N : ℕ} {A : Finset (ℕ × ℕ)} (hA : A ⊆ Finset.Icc 1 N ×ˢ Finset.Icc 1 N) :
    shift A ⊆ Erdos658Plby.grid2 N := by
  intro q hq
  simp only [shift, Finset.mem_image] at hq
  obtain ⟨p, hp, rfl⟩ := hq
  have := hA hp
  simp only [Finset.mem_product, Finset.mem_Icc] at this
  simp only [Erdos658Plby.grid2, Erdos658Plby.gridRange, Finset.mem_product, Finset.mem_image,
    Finset.mem_range]
  exact ⟨⟨p.1 - 1, by omega, by omega⟩, ⟨p.2 - 1, by omega, by omega⟩⟩

lemma mem_shift {A : Finset (ℕ × ℕ)} {x y : ℤ} (h : (x, y) ∈ shift A) :
    ∃ p ∈ A, (p.1 : ℤ) = x + 1 ∧ (p.2 : ℤ) = y + 1 := by
  simp only [shift, Finset.mem_image, Prod.mk.injEq] at h
  obtain ⟨p, hp, h1, h2⟩ := h
  exact ⟨p, hp, by omega, by omega⟩

theorem erdos_658_bridge : type_of% Erdos658.erdos_658 := by
  show True ↔ _
  simp only [true_iff]
  intro δ hδ
  obtain ⟨N₀, h⟩ := Erdos658Plby.erdos_658 δ hδ
  rw [eventually_atTop]
  refine ⟨N₀ + 1, fun N hN A hA hcard => ?_⟩
  obtain ⟨a, b, d, hd, h1, h2, h3, h4⟩ := h N (by omega) (shift A) (shift_subset hA)
    (by rw [card_shift]; exact hcard)
  obtain ⟨p₁, hp₁, hp₁x, hp₁y⟩ := mem_shift h1
  obtain ⟨p₂, hp₂, hp₂x, hp₂y⟩ := mem_shift h2
  obtain ⟨p₃, hp₃, hp₃x, hp₃y⟩ := mem_shift h3
  obtain ⟨p₄, hp₄, hp₄x, hp₄y⟩ := mem_shift h4
  rcases lt_or_gt_of_ne hd with hneg | hpos
  · -- the square with corner `(a + d, b + d)` and side `-d`
    refine ⟨p₄.1, p₄.2, p₁.1 - p₄.1, by omega, ?_, ?_, ?_, ?_⟩
    · simpa using hp₄
    · convert hp₃ using 1; ext <;> simp <;> omega
    · convert hp₂ using 1; ext <;> simp <;> omega
    · convert hp₁ using 1; ext <;> simp <;> omega
  · refine ⟨p₁.1, p₁.2, p₂.1 - p₁.1, by omega, ?_, ?_, ?_, ?_⟩
    · simpa using hp₁
    · convert hp₂ using 1; ext <;> simp <;> omega
    · convert hp₃ using 1; ext <;> simp <;> omega
    · convert hp₄ using 1; ext <;> simp <;> omega

end Bridge658
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«658»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/658.lean [hunk 1]
```diff
@@ -0,0 +1,60 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/658.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
